US04496564
A mixture of 4-(2-aminopyrid-6-ylthio)butyramide (0.25 g.), ethylisothiocyanate (0.2 g.) and acetonitrile (5 ml.) was heated under reflux for 18 hours and then cooled, and the solid which crystallised was collected to give 4-[2-(3-ethylthioureido)pyrid-6-ylthio]butyramide (0.25 g.) which was used without further purification.

reactant | 4-(2-aminopyrid-6-ylthio)butyramide | 0.25 g | NC1=NC(=CC=C1)SCCCC(=O)N | C9H13N3OS
reactant | ethylisothiocyanate | 0.2 g | C(C)N=C=S | C3H5NS
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[2-(3-ethylthioureido)pyrid-6-ylthio]butyramide | 0.25 g | C(C)NC(NC1=NC(=CC=C1)SCCCC(=O)N)=S | C12H18N4OS2
